US04393208
B. 3-Amino-N-methyl-4-trifluoromethylbenzenamine
A mixture of N-methyl-3-nitro-4-trifluoromethylbenzenamine (20 g., 0.09 mole) and absolute alcohol (200 ml.) was reduced with 5% palladium on carbon 50% wet. The material absorbed 24 lbs. of hydrogen (100% theory) in 1 hr. The catalyst was removed by filtration and the filtrate stripped in vacuo. The dark oil crystallized to give 17 g. (99%). The material used as an intermediate in Part C.

reactant | N-methyl-3-nitro-4-trifluoromethylbenzenamine | 0.09 mole, 20 g | CNC1=CC(=C(C=C1)C(F)(F)F)[N+](=O)[O-] | C8H7F3N2O2
catalyst | palladium on carbon | [Pd] | Pd
product | 3-Amino-N-methyl-4-trifluoromethylbenzenamine | NC=1C=C(C=CC1C(F)(F)F)NC | C8H9F3N2
